US05672709
A 1.04 g sample of 3-chloro-4-butylthio-1,2,5-thiadiazole was dissolved in 20 mL of THF and added to a 50 mL reaction vessel. The mixture was cooled to 0° C. A 10 mL sample of sodium bis(trimethylsilyl)amide in THF (1.0M) was added dropwise to the reaction vessel. The mixture was stirred at 0° C. The reaction was quenched using 50 mL water upon desired completion of reaction. The pH of the mixture was adjusted to 2.0 using HCl. The mixture was stirred for 15 min. and then adjusted to pH=11 using NaOH. The mixture was extracted using ether. The organic layers were combined, dried, and filtered. The filtrate was concentrated to dryness. The resulting product was purified using column chromatography. Yield: 1.07 g (65%). The N,N-bis(trimethylsilyl)-3-amino-4-butylthio-1,2,5-thiadiazole was suspended in 3N HCl and heated to about 50° C. The mixture was stirred for 3 h. The pH was adjusted to 11 using NaOH. The mixture was extracted using t-butylmethyl ester. The organics were combined, dried, filtered and concentrated to dryness. Yield: 0.43 g (45%). (Compound 66). The process substantially as described was repeated to yield 82% of the desired 3-amino-4-butylthio-1,2,5-thiadiazole.

reactant | 3-chloro-4-butylthio-1,2,5-thiadiazole | ClC1=NSN=C1SCCCC | C6H9ClN2S2
reactant | sodium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | HCl | Cl | ClH
reactant | NaOH | [OH-].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 1.0M | C1CCOC1 | C4H8O
product | 3-amino-4-butylthio-1,2,5-thiadiazole | 82% | NC1=NSN=C1SCCCC | C6H11N3S2
